Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ragweed / morphine / Percocet
 
Attending: ___.
 
Chief Complaint:
pre-syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with hx of systemic sarcoidosis and Hodgkins 
lymphoma p/w pre-syncopal episode. Pt was receiving chemo on day 
of admission (lying flat) when he suddenly felt nauseated. He 
sat up at the edge of his bed but was unable to stay in seated 
position d/t dizzines and lay back into bed. Pt said he did not 
feel like himself and is unable to say whether he went fully 
unconscious. Wife was present and did not witness any shaking 
movement, though did report he was confused and not acting like 
himself. Pt does admit to feeling confused when he woke up. He 
denies any preceding chest pain, HPs, dyspnea. No other 
associated sxs.
.
In the ED: AF/VSS. Neuro saw pt and recommended MRI brain and 
EEG. CT head negative for acute changes. Labs notabel for WBC 
71, hct 28 plt 190. CEs neg. chem 10 notable only for cr 1.3. Pt 
admitted to OMED.
.
On the floor pt reports being asymptomatic and feeling well. ROS 
is as above. Otherwise complete ROS negative.
 
Past Medical History:
1. Sarcoidosis, dx skin bx: intestinal & pulmonary involvement, 
recurrent iritis
2. Inflammatory bowel disease; s/p ileo-hemicolectomy ___, 
path +sarcoid   
3. GERD.  
4. Hyperlipidemia
5  OSA on CPAP
6. Asthma.  
7. Osteoarthritis.  
8. Fractured pelvis, ___ s/p fall.
9. BPH, status post prostatectomy.  
10. Depression.  
11. History of ITP, status post splenectomy in ___.   
12. Hard of hearing and wears hearing aid.
  
Past Surgical History:  
1. s/p Ex Lap, R hemicolectomy, ileocecal colostomy for 
evaluation ileocecal mass.  
2. Arthroscopic surgery of both knees.  
3. Shoulder surgery.  
4. Hernia repair.  

 
Social History:
___
Family History:
Mother: ___, cardiac disease.  
Father: diverticulosis, peptic ulcer disease, died at age ___.  
Maternal grandfather: ___ cancer.  
Two siblings, living and healthy.  

 
Physical Exam:
ADMISSION EXAM:
t97.8 134/66 82 20 95%ra
NAD
eomi, perrl
neck supple 
no ___
chest clear
rrr
abd benign
ext w/wp
neuro: cn ___ intact, strength/sensation intact,
DTRs intact, cerebellar signs neg
skin: no rash

DISCHARGE EXAM:
VITALS - T 97.7, 138/72, 74, 20, 97% RA, Wt 146.6kg
Telemetry: No events overnight 
General: Pleasant, conversant, elderly gentleman, NAD 
HEENT: PERRL, sclera anicteric, MMM, no mucositis   
Neck: Supple, no JVD, no LAD   
CV: RRR, nl S1/S2, no m/r/g 
Lungs: CTAB, no w/r/r
Abdomen: NABS, flat, soft, NTTP, no HSM 
GU: No Foley
Ext: WWP, no ___ edema, no rashes  
Neuro: No slurred speech, no facial droop, moving all 
extremities equally 

 
Pertinent Results:
ADMISSION LABS:

___ 12:55PM   UREA N-28* CREAT-1.3* SODIUM-141 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-23 ANION GAP-16
___ 12:55PM   ALT(SGPT)-40 AST(SGOT)-58* ALK PHOS-304* TOT 
BILI-0.3
___ 12:55PM   TOT PROT-5.4* ALBUMIN-3.4* GLOBULIN-2.0 
CALCIUM-9.0 PHOSPHATE-3.3 MAGNESIUM-1.7 URIC ACID-8.9*
___ 12:55PM   WBC-71.0*# RBC-2.86* HGB-9.0* HCT-28.4* 
MCV-99* MCH-31.4 MCHC-31.6 RDW-22.8*
___ 12:55PM   NEUTS-71* BANDS-8* LYMPHS-1* MONOS-2 EOS-0 
BASOS-0 ATYPS-1* METAS-6* MYELOS-8* PROMYELO-2* NUC RBCS-27* 
OTHER-1*
___ 12:55PM   HYPOCHROM-3+ ANISOCYT-3+ POIKILOCY-1+ 
MACROCYT-3+ MICROCYT-OCCASIONAL POLYCHROM-1+ OVALOCYT-1+ 
TARGET-OCCASIONAL SCHISTOCY-1+ HOW-JOL-1+ PAPPENHEI-1+ 
ENVELOP-OCCASIONAL
___ 12:55PM   PLT SMR-NORMAL PLT COUNT-190

PERTINENT LABS:

___ 12:55PM BLOOD CK-MB-2 cTropnT-<0.01
___ 03:03AM BLOOD CK-MB-2 cTropnT-<0.01

DISCHARGE LABS:

___ 12:39AM BLOOD WBC-30.8*# RBC-2.35* Hgb-7.1* Hct-22.7* 
MCV-97 MCH-30.4 MCHC-31.5 RDW-23.7* Plt ___
___ 12:39AM BLOOD Neuts-96* Bands-1 Lymphs-1* Monos-1* 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 NRBC-5*
___ 12:39AM BLOOD Hypochr-1+ Anisocy-2+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-1+ Ovalocy-1+ Schisto-1+ 
Stipple-OCCASIONAL How-Jol-1+ Pappenh-1+
___ 12:39AM BLOOD Plt Smr-LOW Plt ___
___ 12:39AM BLOOD Glucose-171* UreaN-30* Creat-0.9 Na-135 
K-4.0 Cl-105 HCO3-23 AnGap-11
___ 12:39AM BLOOD ALT-41* AST-56* LD(LDH)-1672* 
AlkPhos-229* TotBili-0.4
___ 12:39AM BLOOD Albumin-2.8* Calcium-8.1* Phos-3.8 Mg-1.7 
UricAcd-7.3*

IMAGING:
CT HEAD ___: 1.  No evidence of acute intracranial process.  
No focal enhancement or 
pachymeningeal enhancement identified, although the study is 
suboptimal for 
assessment of neurosarcoidosis.  If there is further clinical 
concern, a 
contrast-enhanced brain MRI should be performed.   
  
2.  Air-fluid levels in the sphenoid sinuses compatible with 
acute 
inflammatory sinus disease. 

CXR ___: Allowing for differences in technique and 
projection, there has 
been little interval change in the appearance of the chest since 
the previous 
radiograph, with no new focal areas of consolidation to suggest 
the presence 
of pneumonia.  Multifocal linear areas of scarring appear 
unchanged, 
previously attributed to sarcoidosis.  Band-like opacity at 
periphery of left 
lung base has slightly worsened and is attributed to localize 
atelectasis. 

MR EXAMINATION OF BRAIN WITHOUT AND WITH CONTRAST, MRA OF THE 
HEAD WITHOUT 
CONTRAST, MRA OF THE NECK WITH CONTRAST, ___   
1.  No acute intracranial abnormality. 
2.  Progressive multifocal T2-hyperintensities in bihemispheric 
and central 
pontine white matter, which may represent sequelae of chronic 
small vessel 
ischemic disease, neurosarcoidosis, or a combination of the two. 

3.  No pathologic parenchymal, leptomeningeal or dural 
enhancement to suggest 
active inflammation related to neurosarcoidosis. 
4.  Unremarkable cranial and cervical MRA, with no significant 
mural 
irregularity, flow-limiting stenosis or evidence of dissection. 
5.  Inflammatory disease involving, particularly the sphenoid 
air cells, with 
likely layering fluid, suggesting an acute component; this 
should be 
correlated clinically, as there is also a small amount of 
layering fluid in 
the nasopharynx and fluid-opacification of scattered mastoid air 
cells, which 
may relate to protracted supine positioning. 

 
Brief Hospital Course:
Mr. ___ is a ___ M with stage IV Hodgkin's Lymphoma C2D3 
(on ___ of ABVD, as well as h/o systemic sarcoid on 
prednisone, here after altered mental status/pre-syncope during 
dacarbazine infusion ___. 

# Altered Mental Status/Pre-Syncope: Differential diagnosis on 
admission included allergic reaction, stroke, seizure, and 
cardiogenic syncope. The patient has a history of presumed 
neurosarcoid making an intracranial process more likely. Seizure 
less likely given no tonic-clonic movements and no post-ictal 
confusion. Neurology was consulted in the ED. Head CT negative 
for acute process. Head and neck MRI/MRA was checked on ___ and 
showed progressive multifocal T2 hyperintensity in bihemispheric 
and central pontine white matter; could represent small vessel 
ischemic disease and/or neurosarcoidosis. There was no 
pathologic enhancement to suggest active inflammation due to 
neurosarcoidosis. The MRA of head and neck was unremarkable. An 
EEG was checked but results were pending at the time of 
discharge. The patient ruled out for cardiac ischemia/infarction 
with a normal EKG and negative cardiac enzymes. He was monitored 
on telemetry for 24 hours without event. Overall, it's unclear 
what caused the pre-syncope and altered mental status. The 
patient's cognitive function rapidly returned to normal even 
prior to admission and remained stable throughout 
hospitalization. He will be admitted to the hospital for all 
future cycles of chemotherapy for closer monitoring.

# Stage IV Hodgkin's Lymphoma: Admitted on cycle 2 day 1 of 
ABVD. Did not get full dose of decarbazine on ___ due to 
pre-syncope. He received the remainder of the decarbazine dose 
on ___. He was continued on prophylaxis with fluconazole 400 mg 
PO/NG Q24H, Acyclovir 400 mg PO/NG Q8H, Sulfameth/Trimethoprim 
SS 1 TAB PO/NG DAILY. The patient will start Neupogen and Cipro 
on ___. He was started on allopurinol due to elevated uric 
acid.  

# Systemic Sarcoidosis: Involves skin, gut, eyes, lungs, and 
presumed neurosarcoid. On prednisone daily. He was continued on 
prednisone 25mg daily.  

# Depression: Stable. Continued on fluoxetine 40mg daily

# Obstructive Sleep Apnea. Compliant with home CPAP, which was 
continued during hospitalization.

# History of AVNRT. This was transient during prior 
hospitalization and likely related to sepsis. At that time, 
cardiology recommended conservative treatment with beta 
blockers, since invasive ablation contraindicated in this 
immunosuppressed pt. The patient was continued on metoprolol, 
but switched to short acting metoprolol tartrate 12.5mg BID 
while hospitalized.

TRANSITIONAL ISSUES:
-EEG results pending at discharge
-Patient will be admitted to the hospital for future 
chemotherapy
-Will start Neupogen and Cipro ___.
-New Rx for allopurinol
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acyclovir 400 mg PO Q8H 
2. Fluconazole 400 mg PO Q24H 
3. Fluoxetine 40 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Omeprazole 40 mg PO BID 
6. Ondansetron 8 mg PO Q8H:PRN n/v 
7. PredniSONE 25 mg PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Prochlorperazine 10 mg PO Q6H:PRN n/v 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Fluconazole 400 mg PO Q24H 
3. Fluoxetine 40 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Omeprazole 40 mg PO BID 
6. Ondansetron 8 mg PO Q8H:PRN n/v 
7. PredniSONE 25 mg PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Vitamin D 50,000 UNIT PO 1X/WEEK (WE) 
10. Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg one tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
11. Metoprolol Succinate XL 25 mg PO DAILY 
12. Prochlorperazine 10 mg PO Q6H:PRN n/v 
13. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
-Pre-syncope during chemotherapy administration, unknown 
etiology 
 
SECONDARY: 
-Stage IV Hodgkin's Lymphoma 
-Systemic sarcoidosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at ___. You were admitted 
after having a period of confusion and near-loss of 
consciousness while getting chemotherapy. A CT scan of your 
brain was normal. The MRI showed small lesions scattered 
throughout your brain that may be related to sarcoid, but could 
also be related to low blood flow in the tiniest blood vessels 
in your brain (a common finding as people age). The MRI did not 
show active inflammation in your brain from sarcoid, nor did it 
show a stroke- good news! An EEG was checked to look for seizure 
activity and the result is still pending.  We also monitored 
your heart function. Blood tests and an EKG did not reveal a 
heart attack. The electrical activity of your heart was normal 
over 24 hours of monitoring.

Overall, it's unclear why you experienced near-loss of 
consciousness and confusion with the chemotherapy. Dr. ___ 
___ that you be admitted to the hospital for all future 
administrations of chemotherapy to be cautious and allow for 
closer monitoring.

After returning home, please start Neupogen and Ciprofloxacin on 
___.
 
Followup Instructions:
___